US07342118B2
2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(3-hydroxy-cyclobutyl)-1H-imidazol-4-yl]-amide
Following the procedure for Example 86, 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (diastereomer 2) was reacted with 3-(4-Amino-imidazol-1-yl)-cyclobutanol to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.1, 19.5, 28.2, 28.9, 29.7, 36.5, 40.2, 41.9, 43.4, 48.7, 52.9, 60.5, 60.9, 64.5, 100.8, 101.1, 101.3, 105.1, 105.3, 110.7, 110.9, 131.6, 131.9, 137.7, 139.8, 159.8, 162.3, 172.6; MS m/z 419.2 (M+1).

reactant | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid | FC=1C=C2CCC(CC2=C(C1)F)NC(C(=O)O)CCC | C15H19F2NO2
reactant | 3-(4-Amino-imidazol-1-yl)-cyclobutanol | NC=1N=CN(C1)C1CC(C1)O | C7H11N3O
product | 2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(3-hydroxy-cyclobutyl)-1H-imidazol-4-yl]-amide | OC1CC(C1)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C22H28F2N4O2
